US05362743
In a flame-dried, three-necked round-bottomed reaction flask equipped with reflux condenser, magnetic stirring bar and rubber septum, there was placed 1.0 g (0.0031 mole) of 4-chloro-3-(3-ethoxycarbonylpropionyl)-8-methoxyquinoline (the product of Preparation C) dissolved in 10 mL of dry tetrahydrofuran. Stirring was commenced and 0.8 mL (750 mg, 0.0062 mole) of 2-methylbenzylamine (available from the Aldrich Chemical Company, Inc. of Milwaukee, Wis.), was added over a two-minute period at room temperature (ca. 20° C.). The well-stirred reaction mixture was then heated to 60° C. and thereafter kept at that temperature for a period of approximately 16 hours (i.e., overnight). Upon completion of this step, the resulting reaction mixture was then filtered to remove 2-methylbenzylamine hydrochloride that had precipitated from the mixture and the filtrate was subsequently evaporated to near dryness while under reduced pressure to afford a crude solid product as the residue. The latter material was then purified by means of column chromatography over silica gel, using a 1% solution of diethylamine in ethyl acetate as the eluant. In this manner, there was ultimately obtained a 43 mg (3%) yield of pure 3-(3-ethoxycarbonylpropionyl)-8-methoxy-4-(2-methylbenzylamino)quinoline as the free base compound (isolated as a 0.25 hydrate), m.p. 152°-155° C. The pure product was further characterized by means of mass spectrum (MS) analysis and nuclear magnetic resonance (NMR) data, in addition to elemental analysis.

reactant | 4-chloro-3-(3-ethoxycarbonylpropionyl)-8-methoxyquinoline | 0.0031 mole, 1.0 g | ClC1=C(C=NC2=C(C=CC=C12)OC)C(CCC(=O)OCC)=O | C16H16ClNO4
reactant | 2-methylbenzylamine | 0.0062 mole, 0.8 mL, 750 mg | CC1=C(CN)C=CC=C1 | C8H11N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(3-ethoxycarbonylpropionyl)-8-methoxy-4-(2-methylbenzylamino)quinoline | C(C)OC(=O)CCC(=O)C=1C=NC2=C(C=CC=C2C1NCC1=C(C=CC=C1)C)OC | C24H26N2O4
